US06987114B1
1-(Cyclobutyl)methyl-5-ethyl-6-(3,5-dimethylphenoxy)-2,4-pyrimidinedione
5-Ethyl-6-(3,5-dimethylphenoxy)-2,4-pyrimidinedione and (cyclobutyl)methyl para-toluenesulfonate were reacted by the same way with the example 1 to obtain the titled compound (192 mg, yield: 58.5%).

reactant | 5-Ethyl-6-(3,5-dimethylphenoxy)-2,4-pyrimidinedione | C(C)C=1C(NC(NC1OC1=CC(=CC(=C1)C)C)=O)=O | C14H16N2O3
reactant | (cyclobutyl)methyl para-toluenesulfonate | C1(=CC=C(C=C1)S(=O)(=O)OCC1CCC1)C | C12H16O3S
product | 1-(Cyclobutyl)methyl-5-ethyl-6-(3,5-dimethylphenoxy)-2,4-pyrimidinedione | 192 mg, yield: 58.5% | C1(CCC1)CN1C(NC(C(=C1OC1=CC(=CC(=C1)C)C)CC)=O)=O | C19H24N2O3
